US04965260
a. N-(4-allyloxycarbonylaminophenyl)-N-(allyloxycarbonyl)glycine
Analogously to Example 6, 3.1 g of N-(4-aminophenyl)-glycine are converted with 4.97 ml of chloroformic acid allyl ester and sodium hydroxide solution into the title compound.

reactant | N-(4-aminophenyl)-glycine | 3.1 g | NC1=CC=C(C=C1)NCC(=O)O | C8H10N2O2
reactant | chloroformic acid allyl ester | 4.97 ml | C(C=C)OC(=O)Cl | C4H5ClO2
reactant | sodium hydroxide | [OH-].[Na+]
product | N-(4-allyloxycarbonylaminophenyl)-N-(allyloxycarbonyl)glycine | C(C=C)OC(=O)NC1=CC=C(C=C1)N(CC(=O)O)C(=O)OCC=C | C16H18N2O6
